US07671043B2
5C. 5-[5-(4-Isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridine-2-carbonitrile
A solution of 2-chloro-5-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridine (5.0 g, 16.0 mmol), zinc cyamide (1.13 g, 9.58 mmol), tetrakis(triphenylphosphine) palladium (0) (0.74 g, 0.64 mmol) and DMF (16 mL) was stirred at 80° C. for 24 hours. The reaction mixture was cooled to room temperature, quenched with H2O (10 mL), and extracted with EtOAc (3×100 mL). The combined organic extracts were washed with H2O (2×100 mL) and brine (2×100 mL), dried (MgSO4), filtered and concentrated in vacuo. Purification by flash chromatography (silica, 2:8 EtOAc:hexanes) provided the title compound (2.87 g, 59% yield) as a solid.

reactant | 2-chloro-5-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridine | 16.0 mmol, 5.0 g | ClC1=NC=C(C=C1)C1=NOC(=N1)C1=CC=C(C=C1)CC(C)C | C17H16ClN3O
reactant | DMF | 16 mL | CN(C)C=O | C3H7NO
catalyst | zinc | [Zn] | Zn
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.64 mmol, 0.74 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-[5-(4-Isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridine-2-carbonitrile | 2.87 g, 59% yield | C(C(C)C)C1=CC=C(C=C1)C1=NC(=NO1)C=1C=CC(=NC1)C#N | C18H16N4O
